US07348359B2
5-Acetyl-benzo[b]thiophen-3-one (720 mg, 3.7 mmol) was dissolved in THF under nitrogen and cooled to −78° C. with a dry ice acetone bath. 2.8 ml of a 2M lithium diisopropylamide solution (5.6 mmol) was added to this mixture. After 30 min., N-phenyltrifluoromethane-sulfonimide (2.68 g, 7.5 mmol) was added. The dry ice acetone bath was removed and after 1 hr the reaction had warmed to ambient temperature and was and concentrated in vacuo. The residue was then purified by chromatography (chromatotron, 4μ plate, 0-10% ethyl acetate in hexanes) to provide trifluoro-methanesulfonic acid 5-acetyl-benzo[b]thiophen-3-yl ester as a clear oil (788 mg, 65%). 1HNMR (250 MHz, CDCl3): δ 8.29 (d, 1H, J=1.2), 8.01 (dd, 1H, J=7.8, J=1.2), 7.85 (d, 1H, J=7.8), 7.44 (s, 1H), 2.64 (s, 3H).

reactant | 5-Acetyl-benzo[b]thiophen-3-one | 3.7 mmol, 720 mg | C(C)(=O)C1=CC2=C(SCC2=O)C=C1 | C10H8O2S
reactant | lithium diisopropylamide | 5.6 mmol, 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-phenyltrifluoromethane-sulfonimide | 7.5 mmol, 2.68 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | C1CCOC1 | C4H8O
product | trifluoro-methanesulfonic acid 5-acetyl-benzo[b]thiophen-3-yl ester | 788 mg, 65% | C(C)(=O)C1=CC2=C(SC=C2OS(=O)(=O)C(F)(F)F)C=C1 | C11H7F3O4S2
